US04046736
A solution of diaminoguanidine hydrochloride (6.28 grams; 0.05 mole) and 2,2,6,6-tetramethyl-4-piperidone monohydrate (17.3 grams; 0.10 mole) in 200 mls. of ethanol 2B was refluxed for a period of 15 hours while stirring. The resulting slurry was cooled to 25° C. and the solid was separated to obtain 10.0 grams of crude 1,3-bis[(2,2,6,6-tetramethyl-4-piperidylidene)amino]guanidine hydrochloride. Recrystallization of the crude hydrochloride from ethanol 2B gave 8.9 grams of white solid, m.p. 210°-220° C. (dec).

reactant | diaminoguanidine hydrochloride | 0.05 mole, 6.28 grams | Cl.NNC(NN)=N
reactant | 2,2,6,6-tetramethyl-4-piperidone monohydrate | 0.10 mole, 17.3 grams | O.CC1(NC(CC(C1)=O)(C)C)C
solvent | ethanol | C(C)O | C2H6O
product | 1,3-bis[(2,2,6,6-tetramethyl-4-piperidylidene)amino]guanidine hydrochloride | 10.0 grams | Cl.CC1(NC(CC(C1)=NNC(=N)NN=C1CC(NC(C1)(C)C)(C)C)(C)C)C | InChI=1S/C19H37N7.ClH/c1-16(2)9-13(10-17(3,4)25-16)21-23-15(20)24-22-14-11-18(5,6)26-19(7,8)12-14;/h25-26H,9-12H2,1-8H3,(H3,20,23,24);1H
